US08039463B2
Ammonium chloride (29.6 g, 55.4 mmol) in water (200 mL) and methanol (200 mL) was added to a solution of N-methyl-4-nitro-benzamide (10 g, 55.4 mmol) in THF (160 mL). Zinc powder (29 g, 44.4 mmol) was added portion wise and the mixture stirred for 15 minutes. The reaction mixture was filtered over celite, the filtrate was then concentrated and extracted with ethyl acetate. The organics were washed with brine solution, dried over Na2SO4 and concentrated to afford 7.2 g (86%) of 4-amino-N-methyl-benzamide. 1H NMR: (DMSO-d6): δ 7.9 (s, 1H), 7.6 (d, 2H), 6.5 (d, 2H), 5.6 (s, 2H), 2.7 (s, 3H).

reactant | Ammonium chloride | 55.4 mmol, 29.6 g | [Cl-].[NH4+]
reactant | N-methyl-4-nitro-benzamide | 55.4 mmol, 10 g | CNC(C1=CC=C(C=C1)[N+](=O)[O-])=O | C8H8N2O3
solvent | water | 200 mL | O | H2O
solvent | methanol | 200 mL | CO | CH4O
solvent | THF | 160 mL | C1CCOC1 | C4H8O
catalyst | Zinc | 44.4 mmol, 29 g | [Zn] | Zn
product | 4-amino-N-methyl-benzamide | 7.2 g, 86% | NC1=CC=C(C(=O)NC)C=C1 | C8H10N2O
